US04810713
1-[4-[6-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]hexyloxy]-3-methoxyphenyl]ethanone
Following the procedure of Example 1 and utilizing potassium iodide catalyst, a mixture of [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol and 1-[4-(6-chlorohexoxy)-3-methoxyphenyl]ethanone and sodium carbonate in butanol, the title compound is prepared.

reactant | [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 1-[4-(6-chlorohexoxy)-3-methoxyphenyl]ethanone | ClCCCCCCOC1=C(C=C(C=C1)C(C)=O)OC | C15H21ClO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | potassium iodide | [I-].[K+]
solvent | butanol | C(CCC)O | C4H10O
product | 1-[4-[6-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]hexyloxy]-3-methoxyphenyl]ethanone | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCCCCOC1=C(C=C(C=C1)C(C)=O)OC)(O)C1=CC=C(C=C1)F | C33H39F2NO4
